US09314023B2
A mixture of 1-(2,5-dimethyl-4-hydroxy-phenyl)-ethanone 14.6 g, methyl iodide 16.6 g, potassium carbonate 26.8 g and acetone 200 ml was stirred with heating under reflux for eight hours. The reaction mixture was cooled to room temperature and was filtered, and was then concentrated under reduced pressure. The resulting residue was subjected to a silica gel column chromatography to give 1-(4-methoxy-2,5-dimethyl-phenyl)-ethanone 15.1 g.

reactant | 1-(2,5-dimethyl-4-hydroxy-phenyl)-ethanone | 14.6 g | CC1=C(C=C(C(=C1)O)C)C(C)=O | C10H12O2
reactant | methyl iodide | 16.6 g | CI | CH3I
reactant | potassium carbonate | 26.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 1-(4-methoxy-2,5-dimethyl-phenyl)-ethanone | 15.1 g | COC1=CC(=C(C=C1C)C(C)=O)C | C11H14O2
